US08957064B2
Step 1: 4-(2-amino-4-cyano-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of piperidine-1,4-dicarboxylic acid mono-tert-butyl ester (14.1 g, 0.061 mol) in DMF (282 mL) was added HBTU (27.76 g, 0.073 mol), DMAP (10.2 g, 0.084 mol) and diisopropylethyl amine (24.2 mL). The reaction mixture was stirred for 30 minutes at rt before 3,4-diaminobenzonitrile (8 g, 0.059 mol) was added. The mixture was stirred overnight at rt before the reaction was quenched by pouring into water (2 L). The mixture was extracted with CH2Cl2 and the organic phase washed successively with 1M aq. HCl solution and 10% aq. Na2CO3 solution, dried (Na2SO4) and concentrated in vacuo. Purification by chromatography on silica gel afforded the title compound.

reactant | piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | 0.061 mol, 14.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | HBTU | 0.073 mol, 27.76 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl amine | 24.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3,4-diaminobenzonitrile | 0.059 mol, 8 g | NC=1C=C(C#N)C=CC1N | C7H7N3
solvent | DMF | 282 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.084 mol, 10.2 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-(2-amino-4-cyano-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC1=C(C=C(C=C1)C#N)N)=O | C18H24N4O3
